US07754903B2
Synthesis of 1,3-bis(glycidyloxymethyl)adamantane
300 ml of dehydrated tetrahydrofuran containing 19.6 g (0.1 mol) of 1,3-bis(hydroxymethyl)adamantane and 5.3 g (0.22 mol) of sodium hydride was stirred in a nitrogen atmosphere at the reflux temperature for 2 hours. Thereto was dropwise added 20.4 g (0.22 mol) of epichlorohydrin, followed by stirring at the reflux temperature for 12 hours. To the reaction mixture was added 200 ml of chloroform, followed by washing with water. The chloroform layer was dried with magnesium sulfate. The dried chloroform layer was subjected to distillation under reduced pressure for solvent removal, whereby was obtained a white solid and oily matter.

reactant | tetrahydrofuran | 0.1 mol, 300 ml, 19.6 g | O1CCCC1 | C4H8O
reactant | 1,3-bis(hydroxymethyl)adamantane | OCC12CC3(CC(CC(C1)C3)C2)CO | C12H20O2
reactant | sodium hydride | 0.22 mol, 5.3 g | [H-].[Na+]
reactant | epichlorohydrin | 0.22 mol, 20.4 g | C(Cl)C1CO1 | C3H5ClO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-bis(glycidyloxymethyl)adamantane | C(C1CO1)OCC12CC3(CC(CC(C1)C3)C2)COCC2CO2 | C18H28O4
